US07452892B2
A. Preparation of 7,8-bis(4-chlorophenyl)-5-(1H-imidazol-1-yl)-[1,2,4]triazolo[4,3-c]pyrimidin-3(2H)-one
To a stirred solution of 1,1′-carbonyldiimidazole (80 mg, 0.49 mmol) in THF (1 mL) at room temperature under argon was added 2-chloro-4,5-bis(4-chlorophenyl)-6-hydrazinylpyrimidine (60 mg, 0.16 mmol). The reaction mixture was stirred at room temperature for 10 min. The reaction mixture was diluted with EtOAc (5 mL) and water (5 mL). The layers were separated. The organic layer was dried (MgSO4), filtered, and concentrated at reduced pressure to obtain 60 mg of the title compound as a yellow solid. HPLC/MS: retention time=3.218 min, [M+H]30 =423.

reactant | 1,1′-carbonyldiimidazole | 0.49 mmol, 80 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2-chloro-4,5-bis(4-chlorophenyl)-6-hydrazinylpyrimidine | 0.16 mmol, 60 mg | ClC1=NC(=C(C(=N1)C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)Cl)NN | C16H11Cl3N4
reactant | THF | 1 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 5 mL | CCOC(=O)C | C4H8O2
solvent | water | 5 mL | O | H2O
product | 7,8-bis(4-chlorophenyl)-5-(1H-imidazol-1-yl)-[1,2,4]triazolo[4,3-c]pyrimidin-3(2H)-one | 60 mg | ClC1=CC=C(C=C1)C1=C(C=2N(C(=N1)N1C=NC=C1)C(NN2)=O)C2=CC=C(C=C2)Cl | C20H12Cl2N6O
